US08198285B2
Stage 1: 3-(4-bromophenyl)propan-1-ol
Sodium borohydride (119.12 g) and THF (5 L) were charged into reactor 1 and temperature adjusted to −20° C. 3-(bromophenyl)propionic acid (1 kg) was charged into reactor 2 with THF (3 L) and stirred at 25° C. until all the solids dissolved. This solution in reactor 2 was transferred to reactor 1 maintaining reactor 1 contents at <0° C. BF3.Et2O (991.4 g) was slowly added into reactor 1 maintaining reactor 1 contents at −20 to −10° C. After addition, the mixture was stirred at −20 to −10° C. for 1 h. The reaction is analysed for completion (3-(bromophenyl)propionic acid <2.5%). Water (2 L) was slowly added into reactor 1 to quench the reaction. (gas evolution). MTBE (5 L) was charged into reactor 1 and phases separation was carried out. The upper layer was collected and lower layer was washed with MTBE (5 L). The upper layer was collected and combined with the layer from the previous step. Adjusted pH value of the organic layer to 8-9 by adding 1N NaOH solution. The organic layer was washed with saturated NaCl solution (2 L) and the upper layer was collected. The organic layer was evaporated down to a colourless oil.

reactant | Sodium borohydride | 119.12 g | [BH4-].[Na+]
reactant | THF | 5 L | C1CCOC1 | C4H8O
reactant | 3-(bromophenyl)propionic acid | 1 kg | BrC1=C(C=CC=C1)CCC(=O)O | C9H9BrO2
reactant | THF | 3 L | C1CCOC1 | C4H8O
reactant | BF3.Et2O | 991.4 g | B(F)(F)F.CCOCC
solvent | MTBE | 5 L | CC(C)(C)OC | C5H12O
solvent | Water | 2 L | O | H2O
product | 3-(4-bromophenyl)propan-1-ol | BrC1=CC=C(C=C1)CCCO | C9H11BrO
